US07781144B2
Synthesis of (2-adamantyloxymethyl)methacrylate
6.9 g of methacrylic acid was dissolved in 200 ml of tetrahydrofuran, and 8.0 g of triethylamine was added. Following stirring at room temperature, a solution containing 15 g of 2-adamantyl chloromethyl ether dissolved in 100 ml of tetrahydrofuran was added dropwise to the reaction solution. Following stirring for 12 hours at room temperature, the precipitated salt was removed by filtration. The solvent was removed from the remaining filtrate by evaporation, the residue was dissolved in 200 ml of ethyl acetate, and following washing with pure water (100 ml×3), the solvent was removed by evaporation. The residue was then allowed to stand under ice cooling, thereby yielding a white solid.

reactant | methacrylic acid | 6.9 g | C(C(=C)C)(=O)O | C4H6O2
reactant | triethylamine | 8.0 g | C(C)N(CC)CC | C6H15N
reactant | 2-adamantyl chloromethyl ether | 15 g | ClCOC1C2CC3CC(CC1C3)C2 | C11H17ClO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (2-adamantyloxymethyl)methacrylate | C12C(C3CC(CC(C1)C3)C2)OCOC(C(=C)C)=O | C15H22O3
